US06589978B2
A solution of (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester (4.35 g, 11.5 mmol) in 1N potassium hydroxide solution (100 ml) was stirred at room temperature for 17 h. Aqueous work-up yielded (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid (4.05 g, yield 97%) as a white solid, m.p. 166° C.

reactant | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | 11.5 mmol, 4.35 g | COC(=O)C1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C19H20FNO4S
solvent | potassium hydroxide | 1N, 100 ml | [OH-].[K+]
product | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid | 4.05 g, yield 97% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C18H18FNO4S
